US04985422
3,4-Dihydro-[1]benzothieno[3,2-c]pyridin-1(2H)-one
A mixture of ethyl [2-(benzo[b]thiophen-2-yl)ethyl]carbamate (285 mg), polyphosphoric acid (4 g) and phosphorus pentoxide (250 mg) was heated at 100°-110° for 6h. The cooled mixture was treated with water (25 ml) and the suspension was extracted with ethyl acetate (3×25 ml) The combined, dried organic extracts were purified by SPCC eluting with System B (1:1) to give the title compound (35 mg) as a solid, m.p. 143°-144°.

reactant | ethyl [2-(benzo[b]thiophen-2-yl)ethyl]carbamate | 285 mg | S1C2=C(C=C1CCNC(OCC)=O)C=CC=C2 | C13H15NO2S
reactant | phosphorus pentoxide | 250 mg | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | water | 25 ml | O | H2O
product | 3,4-Dihydro-[1]benzothieno[3,2-c]pyridin-1(2H)-one | 35 mg | C1(NCCC2=C1C1=C(S2)C=CC=C1)=O | C11H9NOS
